US08133995B2
Step 4. Preparation of 1-amino-4-chloro-1H-pyrrole-2-carbonitrile
To a rapidly stirred solution of 4-chloro-1H-pyrrole-2-carbonitrile (3.6 g, 28.4 mmol) in DMF (75 mL) was added NaH (1.7 g, 42.7 mmol) portion wise over 20 min. The dark brown solution was allowed to stir for an additional 10 min. The aminating reagent ((aminooxy)(diphenyl)phosphine oxide) (10 g, 42.7 mmol) was added in one portion. The mixture was heated to 80° C. for 6 hours. The reaction was quenched with distilled water (100 mL). EtOAc (50 mL) was added to the reaction and the solution was transferred to a separatory funnel and the organic layer was isolated while the aqueous layer was back extracted with EtOAc (2×50 mL). The combined organic layers were collected, dried (MgSO4), filtered, and concentrated in vacuo to yield 3.4 g of the above compound (24.02 mmol, yield 84%).

reactant | 4-chloro-1H-pyrrole-2-carbonitrile | 28.4 mmol, 3.6 g | ClC=1C=C(NC1)C#N | C5H3ClN2
reactant | NaH | 42.7 mmol, 1.7 g | [H-].[Na+]
reactant | (aminooxy)(diphenyl)phosphine oxide | NOP(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C12H12NO2P
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 1-amino-4-chloro-1H-pyrrole-2-carbonitrile | 24.02 mmol, 3.4 g, yield 84% | NN1C(=CC(=C1)Cl)C#N | C5H4ClN3
